US06011159
Methanesulfonic acid 5bromo-2-propionyl-phenyl ester (36.6 g, 119 mmol) was combined with cyclohexylhydrazine (27.2 g, 238 mmol) and ammonium acetate (23.0 g, 299 mmol) in xylenes (220 mL). The reaction mixture was heated to 135° C. in a Dean-Stark apparatus for 48 hours. The reaction was cooled to room temperature and concentrated to a low volume under reduced pressure. The crude product was filtered through a pad of silica gel (weight ratio product/silica gel 1/5) eluting first with hexanes then with a 10/90 mixture of ethyl acetate and hexanes. The fractions containing principally 6-bromo-1-cyclohexyl-3-ethyl-1H-indazole were collected. A second crop was obtained by repeating the above silica treatment with the mixed fractions. The two crops were combined and dried under vacuum to yield 28.0 g of 6-bromo-1-cyclohexyl-3-ethyl-1H-indazole (76% yield). 1H NMR (400 MHz, CDCl3) δ 1.35 (t, 3, J=7.7), 1.39-2.06 (m, 10), 2.95 (q, 2, J=7.7), 4.21-4.28(m, 1), 7.15 (d, 1, J=8.5), 7.51 (d, 1, J=8.5), 7.56 (s, 1). 13C NMR (100 MHz, CDCl3) δ 13.95, 20.50, 25.35, 25.84, 32.44, 58.15, 112.01, 120.10, 121.37, 121.65, 122.82, 140.37, 146.60. IR 2934, 2855, 1606, 1502, 1451, 1048, 951, 834 cm-1. Analysis calculated for C15H19BrN2 : C, 58.64; H, 6.23; N, 9.12. Found: C, 58.82; H, 6.20; N, 9.01.

reactant | Methanesulfonic acid 5bromo-2-propionyl-phenyl ester | 119 mmol, 36.6 g | BrC=1C=CC(=C(C1)OS(=O)(=O)C)C(CC)=O | C10H11BrO4S
reactant | cyclohexylhydrazine | 238 mmol, 27.2 g | C1(CCCCC1)NN | C6H14N2
reactant | ammonium acetate | 299 mmol, 23.0 g | C(C)(=O)[O-].[NH4+]
product | 6-bromo-1-cyclohexyl-3-ethyl-1H-indazole | 28.0 g, 76% yield | BrC1=CC=C2C(=NN(C2=C1)C1CCCCC1)CC | C15H19BrN2
